US08034812B2
Production of 1-benzyl-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1H-pyrrole-3-carboxamide
Using 1-benzyl-1H-pyrrole-3-carboxylic acid (276 mg, 1.37 mmol), tetrahydrofuran (3.0 mL), N,N-dimethylformamide (20 μL, 0.26 mmol), oxalyl chloride (120 μL, 1.37 mmol), N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylcyclopropanecarboxamide (300 mg, 0.92 mmol) and N,N-dimethylacetamide (6.0 mL), and in the same manner as in Example 249, the title compound (114 mg, 24%) was obtained as a white powder.

reactant | 1-benzyl-1H-pyrrole-3-carboxylic acid | 1.37 mmol, 276 mg | C(C1=CC=CC=C1)N1C=C(C=C1)C(=O)O | C12H11NO2
reactant | N,N-dimethylformamide | 0.26 mmol, 20 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.37 mmol, 120 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylcyclopropanecarboxamide | 0.92 mmol, 300 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3C(C3)C)C=CC1F | C17H16FN5O2
solvent | N,N-dimethylacetamide | 6.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | 1-benzyl-N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1H-pyrrole-3-carboxamide | 114 mg, 24% | C(C1=CC=CC=C1)N1C=C(C=C1)C(=O)NC1=C(C=CC(=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2)F | C28H23FN6O3
